US04996218
2-Pyrimidinebutanol
4-(2-Pyrimidinyl)-3-butynol (1.5 g) in ethanol (40 ml) was added to pre-reduced 10% palladium on charcoal (50% aqueous paste) in ethanol (60 ml) and hydrogenated at room temperature and atmospheric pressure. The catalyst was removed by filtration through hyflo and the solvent evaporated in vacuo. The residual oil was purified by FCC. Elution with System C (19:1) and (9:1) gave the title compound as a pale yellow oil (1.32 g).

reactant | 4-(2-Pyrimidinyl)-3-butynol | 1.5 g | N1=C(N=CC=C1)C#CCCO | C8H8N2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2-Pyrimidinebutanol | 1.32 g | N1=C(N=CC=C1)CCCCO | C8H12N2O
